US07960552B2
To a solution of 2,6-dichlorobenzenethiol (530 mg, 2.96 mmol), methyl 3-(hydroxymethyl)-5-(1-methylethyl)-4-isoxazolecarboxylate (629 mg, 2.46 mmol) and triphenylphosphine (1.29 g, 4.93 mmol) in dichloromethane (20 mL) was added di-tert-butyl azodicarboxylate (1.14 g, 4.93 mmol). The solution was stirred at ambient temperature overnight. The solution was then adsorbed onto silica gel and purified by chromatography (silica gel, 0-100% ethyl acetate in hexanes gradient elution) to afford methyl 3-{[(2,6-dichlorophenyl)thio]methyl}-5-(1-methylethyl) -4-isoxazolecarboxylate (886 mg, 100%). 1H-NMR (400 MHz, CDCl3) δ 7.52-7.35 (m, 3H), 4.18 (s, 3H), 3.72 (s, 2H), 3.64 (septet, J=7 Hz, 1H), 1.20 (d, J=7 Hz, 6H). LRMS (APCI) m/z 360 (M+H)+.

reactant | 2,6-dichlorobenzenethiol | 2.96 mmol, 530 mg | ClC1=C(C(=CC=C1)Cl)S | C6H4Cl2S
reactant | methyl 3-(hydroxymethyl)-5-(1-methylethyl)-4-isoxazolecarboxylate | 2.46 mmol, 629 mg | OCC1=NOC(=C1C(=O)OC)C(C)C | C9H13NO4
reactant | triphenylphosphine | 4.93 mmol, 1.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 4.93 mmol, 1.14 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | methyl 3-{[(2,6-dichlorophenyl)thio]methyl}-5-(1-methylethyl) -4-isoxazolecarboxylate | 886 mg, 100% | ClC1=C(C(=CC=C1)Cl)SCC1=NOC(=C1C(=O)OC)C(C)C | C15H15Cl2NO3S
